US06140100
According to example 184, 5.00 g of methyl 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzoate was reduced using 31.8 mL of 1M diisobutylaluminum hydride/toluene and 50 mL of anhydrous toluene. Analysis of the reaction mixture by tlc after 30 min indicated some remaining starting material. To ensure complete reduction, an additional 5 mL of 1M diisobutylaluminum hydride/toluene was added and the reaction was allowed to proceed for an additional 5 min. Work-up in the usual manner afforded 4.11 g (90%) of 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzyl alcohol as a cloudy oil. The product was used without further purification.

reactant | methyl 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzoate | 5.00 g | C(C)(C)(C)C=1C=C(C(=O)OC)C=CC1O[Si](C)(C)C(C)(C)C | C18H30O3Si
reactant | diisobutylaluminum hydride toluene | 1M, 31.8 mL | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | diisobutylaluminum hydride toluene | 1M, 5 mL | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-tert-butyl-4-((tert-butyldimethylsilyl)oxy)benzyl alcohol | 4.11 g, 90% | C(C)(C)(C)C=1C=C(CO)C=CC1O[Si](C)(C)C(C)(C)C | C17H30O2Si
